US05464867
4-Aminobenzonitrile (17.58 g, 149 mmol) was added to a solution of 3,4-diethoxy-3-cyclobutene-1,2-dione (25.31 g, 149 mmol) in absolute ethanol (450 mL). The mixture was heated at reflux overnight and the resulting suspension filtered hot to remove a small amount of a dirty yellow solid (discarded). The filtrate was gradually concentrated to afford several crops of 4-(3,4-dioxo-2-ethoxy-cyclobut-1-enylamino)benzonitrile, as a bright yellow solid, which were collected by filtration and combined. Yield: 29.11 g (81%): 1H NMR (DMSO-d6): δ11.07 (s, 1H), 7.81 (d, 2H), 7.56 (d, 2H), 4.79 (q, 2H), 1.46 (t, 3H).

reactant | 4-Aminobenzonitrile | 149 mmol, 17.58 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 149 mmol, 25.31 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | 450 mL | C(C)O | C2H6O
product | 4-(3,4-dioxo-2-ethoxy-cyclobut-1-enylamino)benzonitrile | O=C1C(=C(C1=O)NC1=CC=C(C#N)C=C1)OCC | C13H10N2O3
